US08426420B2
ii) piperazine-1-carboxylic acid phenyl ester hydrotrifluoroacetate
Crude piperazine-1,4-dicarboxylic acid tert-butyl ester phenyl ester was dissolved in 10 ml dichloromethane and treated with 4 ml TFA. After stirring for 12 h the solution was concentrated and the residue codistilled twice with toluene. Yield: 3.0 g.

reactant | piperazine-1,4-dicarboxylic acid tert-butyl ester phenyl ester | C1(=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
reactant | TFA | 4 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | piperazine-1-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1CCNCC1 | C11H14N2O2
